* C:\Users\palco\github\gmid\simulations\example_closed_loop.asc
* Generated by LTspice 24.1.9 for Windows.
M3 vy vy vdd vdd my_pmos l=0.5u w=40u m=1
M1 N001 vbias vx 0 my_nmos l=0.5u w=10u m=1
M2 N002 vbias vx 0 my_nmos l=0.5u w=10u m=1
M8 vbn vbn 0 0 my_nmos l=0.5u w=10u m=2
M7 N003 vbn 0 0 my_nmos l={l} w=10u m=2
M5 N004 vbn 0 0 my_nmos l=0.5u w=10u m=10
M4 vz vy vdd vdd my_pmos l=0.5u w=40u m=1
M6 vout vz vdd vdd my_pmos l=0.5u w=40u m=10
i8 vdd vbn 1m
V1 vbias 0 {vin}
Vi13 vy N001 0
Vi24 vz N002 0
Vi56 vout N004 0
Vi7 vx N003 0
V2 vdd 0 {vpos}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\palco\AppData\Local\LTspice\lib\cmp\standard.mos
.model my_nmos nmos(kp=200u vt0=450m lambda = 0.07 gamma=0.55 phi=0.6)
.model my_pmos pmos(kp=50u vt0=-550m lambda = 0.05 gamma=0.4 phi=0.6)
.param vpos=3.3
.param vin=1.65
.param l= 1.0u
.op
.options logopinfo
; For part F, we are looking for DC curent flows in the devices
; for both the open loop and closed loop circtuis.
.meas OP vy PARAM v(vy)
.backanno
.end
